* C:\users\tor\My Documents\projects\ucd\eeen40310_Power-Electronics\LAB1\updatedSchmidt1011.asc
C1 VC 0 22n
R1 V2 VC 560
XU1 V2 VC vs+ vs- V2 LT1357
R3 V2 V2 8.2k
R2 V2 0 2.2k
V1 vs+ 0 10
V2 vs- 0 -10
XU2 0 V2 vs+ vs- N004 LT1357
R12 N005 N004 7k
R§1k N005 0 1k
Q3 N002 N005 0 0 2N3904
R11 N001 N002 1k
Rgate gate N003 10
C6 N001 0 1µ
Q2 0 N002 N003 0 BC327-25
V3 N001 0 10
Q1 N001 N002 N003 0 2N3904
.model NPN NPN
.model PNP PNP
.lib C:\users\tor\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 0 1m 0
.lib LTC.lib
.backanno
.end
